US07101891B2
9-Chloro-3-methyl-5-[1-(3-pyridin-2-yl-propionyl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one
Add 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide (50 mg, 0.11 mmol), 2-pyridine propionic acid (20 mg, 0.13 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (26 mg, 0.13 mmol), 1-hydroxy-7-azabenzotriazole (18 mg, 0.13 mmol), 4-dimethylamino-pyridine (1 mg, 0.01 mmol), and dimethylformamide (3 mL) to a dry roundbottom flask. Stir the reaction under nitrogen, and add triethylamine (30 μL, 0.22 mmol) dropwise. Stir the solution under nitrogen at room temperature overnight. Concentrate the solution and dissolve in 20% isopropanol/chloroform; wash with saturated aqueous sodium bicarbonate solution and brine; dry over magnesium sulfate; and concentrate. Purify by flash chromatography on silica gel (eluting with 0–2% methanol/chloroform) to give 38.5 mg of the title compound as a white solid, 76% yield. 1H NMR: consistent with structure. MS (ion spray) 451 (M+).

reactant | 9-chloro-3-methyl-5-piperidin-3-yl-5H-isoxazolo[4,3-c]quinolin-4-one hydroiodide | 0.11 mmol, 50 mg | I.ClC=1C=2C=3C(C(N(C2C=CC1)C1CNCCC1)=O)=C(ON3)C
reactant | 2-pyridine propionic acid | 0.13 mmol, 20 mg | N1=C(C=CC=C1)CCC(=O)O | C8H9NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.13 mmol, 26 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.13 mmol, 18 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylamino-pyridine | 0.01 mmol, 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 9-Chloro-3-methyl-5-[1-(3-pyridin-2-yl-propionyl)-piperidin-3-yl]-5H-isoxazolo[4,3-c]quinolin-4-one | 38.5 mg, 76% yield | ClC=1C=2C=3C(C(N(C2C=CC1)C1CN(CCC1)C(CCC1=NC=CC=C1)=O)=O)=C(ON3)C | C24H23ClN4O3
